US05204352
Preparation of 6-Methyl-2-(4'-bromophenyl)imidazo-[1,2-a]pyridine
A mixture of 18.8 g of 2-amino-5-methylpyridine and 27.8 g of p-bromophenacyl-bromide in 200 ml of acetone was refluxed for 8 hrs. The precipitate was collected and dissolved in hot methanol and 2 ml of concentrated HBr was added. The methanol solution was then basified with ammonium hydroxide. The precipitated product was collected and recrystallized from ethanol; yield 18.5 g (68%); mp 215°-216° C.

reactant | 2-amino-5-methylpyridine | 18.8 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | p-bromophenacyl-bromide | 27.8 g | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 6-Methyl-2-(4'-bromophenyl)imidazo-[1,2-a]pyridine | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)Br | C14H11BrN2
